US07531533B2
Synthesis of 2-[2-(trifluoromethyl)phenyloxy]acetic acid (Starting compound CA54) (Preparation method pc-1)
A solution of 2-hydroxybenzotrifluoride (3.00 g, TCI) in a mixture of DMF (16.5 ml) and ethanol (1.8 ml) was added with sodium hydroxide (1.5 g, WAKO) and bromoacetic acid (2.6 g, TCI), and the mixture was stirred at 85° C. for 24 hours. The reaction mixture was added with diethyl ether and saturated brine, and successively washed with 1 N aqueous hydrochloric acid and saturated aqueous sodium carbonate. The layer produced between the aqueous layer and oil layer was dried to obtain a crude product of the title compound (Compound No. CA54, 2.36 g).

reactant | 2-hydroxybenzotrifluoride | 3.00 g | OC1=C(C=CC=C1)C(F)(F)F | C7H5F3O
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
reactant | bromoacetic acid | 2.6 g | BrCC(=O)O | C2H3BrO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | DMF | 16.5 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 1.8 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 2-[2-(trifluoromethyl)phenyloxy]acetic acid | 2.36 g | FC(C1=C(C=CC=C1)OCC(=O)O)(F)F | C9H7F3O3
